US07544697B2
1-(2-Aminoethyl)-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-amine dihydrochloride, prepared according to the method described in Parts A through H of Example 51 was stirred with aqueous sodium hydroxide at pH 13. The mixture was adjusted to pH 8 with the addition of hydrochloric acid, and the resulting mixture was extracted with dichloromethane. The extracts were concentrated under reduced pressure to provide 1-(2-aminoethyl)-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-amine.

reactant | 1-(2-Aminoethyl)-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-amine dihydrochloride | Cl.Cl.NCCC=1N(N=C2C(=NC=3C=CC=CC3C21)N)CCC
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 1-(2-aminoethyl)-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-amine | NCCC=1N(N=C2C(=NC=3C=CC=CC3C21)N)CCC | C15H19N5
